US08703768B2
To a solution of 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester (100 mg, 0.54 mmol) in DMSO (1 mL) was added potassium carbonate (164 mg, 1.19 mmol) and the reaction mixture was stirred for 5 min. 1-Bromo-2-methoxyethane (110 μl, 1.19 mml) was added and the resulting reaction mixture was stirred at ambient temperature overnight. The reaction mixture was partitioned between ethyl acetate and water and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried and the solvent was evaporated. The product was obtained as a mixture of regioisomers which were separated by silica gel chromatography using a heptane/ethyl acetate gradient to yield 72 mg (55%) of the desired regioisomer and 33 mg (25%) of 2-(2-methoxyethyl)-4-nitro-2H-pyrazole-3-carboxylic acid ethyl ester.

reactant | 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester | 0.54 mmol, 100 mg | C(C)OC(=O)C1=NNC=C1[N+](=O)[O-] | C6H7N3O4
reactant | potassium carbonate | 1.19 mmol, 164 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Bromo-2-methoxyethane | 110 μl | BrCCOC | C3H7BrO
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-(2-methoxyethyl)-4-nitro-2H-pyrazole-3-carboxylic acid ethyl ester | 33 mg, 25% | C(C)OC(=O)C=1N(N=CC1[N+](=O)[O-])CCOC | C9H13N3O5
